US04710502
2-Amino-5-chloro-N-[3-(1H-1,2,4-triazol-1-yl)propyl]benzamide
When 5-chloroisatoic anhydride was reacted with 3-(1H-1,2,4-triazol-1-yl)propanamine by the procedure of Example 11, this compound, mp 116°-118° C., was obtained.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 3-(1H-1,2,4-triazol-1-yl)propanamine | N1(N=CN=C1)CCCN | C5H10N4
product | 2-Amino-5-chloro-N-[3-(1H-1,2,4-triazol-1-yl)propyl]benzamide | NC1=C(C(=O)NCCCN2N=CN=C2)C=C(C=C1)Cl | C12H14ClN5O
